US05817671
5-(N-[4-fluorobenzoyl]amino)-3-(1-(2-phenyleth-1-yl)-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.047 mMol) 5-amino-3-(1-(2-phenyleth-1-yl)-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine and 0.007 mL (0.061 mMol) 4-fluorobenzoyl chloride, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-(2-phenyleth-1-yl)-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | 0.047 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)CCC2=CC=CC=C2 | C20H22N4
reactant | 4-fluorobenzoyl chloride | 0.061 mMol, 0.007 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 5-(N-[4-fluorobenzoyl]amino)-3-(1-(2-phenyleth-1-yl)-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | FC1=CC=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C=3CCN(CC3)CCC3=CC=CC=C3)C=C1 | C27H25FN4O
